US07223776B2
29.d) 4-[2-(6-Methoxy-quinolin-4-yl)-ethyl]-cyclohexanone
A solution of 4-[2-(1,4-dioxa-spiro[4.5]dec-8-yl)-ethyl]-6-methoxy-quinoline (0.77 g, 2.35 mmol) in AcOH/THF/H2O (3/2/2, 10 ml) was stirred at 60° C. for 10 hours. The reaction mixture was concentrated to dryness by rotary evaporation. The residue was diluted with EtOAc (100 ml), washed with NaHCO3 (100 ml), dried over MgSO4, filtered and concentrated to dryness by rotary evaporation.

reactant | 4-[2-(1,4-dioxa-spiro[4.5]dec-8-yl)-ethyl]-6-methoxy-quinoline | 2.35 mmol, 0.77 g | O1CCOC12CCC(CC2)CCC2=CC=NC1=CC=C(C=C21)OC | C20H25NO3
solvent | AcOH THF H2O | 10 ml | CC(=O)O.C1CCOC1.O
product | 4-[2-(6-Methoxy-quinolin-4-yl)-ethyl]-cyclohexanone | COC=1C=C2C(=CC=NC2=CC1)CCC1CCC(CC1)=O | C18H21NO2
